US05376800
Dibutylphthalate:
The procedure for preparing the solution is as follows. Carefully crush the 9.7 grams of Ixan-SGA resin with a mortar and pestle to yield a fine powder. Then, gradually add the Ixan powder to the 30 grams butylacetate while constantly stirring the solution to prevent clusters from forming. Complete dissolution is reached only after approximately 48 hours. After complete dissolution, add the 57.9 grams of trichloroethylene and stir the resulting solution constantly for another 24 hours to yield a clear yellow solution. The last two solvents are used as plasticizers. After filtering the Ixan solution through a millipore filtering apparatus with a filter having a 1.2 μm pore size and 47 mm. diameter, add the plasticizers and again stir the solution for another 12 hours.

reactant | trichloroethylene | 57.9 grams | ClC=C(Cl)Cl | C2HCl3
reactant | butylacetate | 30 grams | C(CCC)OC(C)=O | C6H12O2
product | Dibutylphthalate | C(CCC)OC(C=1C(C(=O)OCCCC)=CC=CC1)=O | C16H22O4
